US04145538
7-(2-(2-Thienyl)acetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (50 milligrams) in ethanol was reacted with excess diazomethane. After five minutes the excess diazomethane was evaporated and the desired methyl ester crystallized with ethanol, then with chloroform, and with acetone. Nine milligrams of the desired 7-(2-(2-thienyl)acetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid, methyl ester were obtained, m.p., 212°-214° C.

reactant | 7-(2-(2-Thienyl)acetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 50 milligrams | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C15H15N3O6S2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethanol | C(C)O | C2H6O
product | 7-(2-(2-thienyl)acetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid, methyl ester | Nine milligrams | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)OC)C1=O | C16H17N3O6S2
